US07476688B2
(Step 4) 5-Methoxy-3-propyl-3,4-dihydro-2H-pyrrole
Trimethyloxonium tetrafluoroborate (715 mg, 4.83 mmol) was added to a solution of 4-propyl-2-pyrrolidinone (410 mg, 3.22 mmol) in methylene chloride (8 ml) and the mixture was stirred at room temperature for 14 hours. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture to render it weekly basic and then it was extracted with ethyl acetate. After washing the organic layer with brine and drying over anhydrous magnesium sulfate, the organic layer was subjected to distillation under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (306 mg) as a light yellow oil. 1H-NMR (CDCl3) δ(ppm) 0.90 (3H, t, J=7.2 Hz), 1.21-1.50 (4H, m), 2.13 (1H, dd, J=16.4 Hz, 16.8 Hz), 2.34-2.48 (1H, m), 2.57 (1H, dd, J=16.4 Hz, 9.2 Hz), 3.24 (1H, dd, J=13.6 Hz, 6.0 Hz), 3.71-3.90 (4H, m)

reactant | Trimethyloxonium tetrafluoroborate | 4.83 mmol, 715 mg | F[B-](F)(F)F.C[O+](C)C
reactant | 4-propyl-2-pyrrolidinone | 3.22 mmol, 410 mg | C(CC)C1CC(NC1)=O | C7H13NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 5-Methoxy-3-propyl-3,4-dihydro-2H-pyrrole | 306 mg | COC=1CC(CN1)CCC | C8H15NO
